US09447114B2
To a mixture of 5-(4-chlorobenzyl)-6-(3-chlorophenyl)furo[2,3-d]pyrimidine-2,4(1H,3H)-dione (38.7 mg, 0.1 mmol) and K2CO3 (13.8 mg, 0.1 mmol) in DMF (1 mL) at 0° C. was added chloromethyl-2-trimethylsilylethyl ether (33.4 mg, 0.2 mmol). The reaction was stirred at 0° C. for 1 h then diluted with EA (10 mL) and water (3 mL). The organic layer was washed with brine (3 mL), dried over Na2SO4 and concentrated to a residue which was purified by chromatography eluted with PE/EA (5:1) to give 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)furo[2,3-d]pyrimidine-2,4(1H,3H)-dione (31 mg, 60.7% yield) as a colorless oil. LCMS: MH+ 517 and TR=2.196 min.

reactant | 5-(4-chlorobenzyl)-6-(3-chlorophenyl)furo[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.1 mmol, 38.7 mg | ClC1=CC=C(CC2=C(OC=3NC(NC(C32)=O)=O)C3=CC(=CC=C3)Cl)C=C1 | C19H12Cl2N2O3
reactant | K2CO3 | 0.1 mmol, 13.8 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | chloromethyl-2-trimethylsilylethyl ether | 0.2 mmol, 33.4 mg | ClCC(COCC(CCl)[Si](C)(C)C)[Si](C)(C)C | C12H28Cl2OSi2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EA | 10 mL | CC(OCC)=O | C4H8O2
solvent | water | 3 mL | O | H2O
product | 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)furo[2,3-d]pyrimidine-2,4(1H,3H)-dione | 31 mg, 60.7% yield | ClC1=CC=C(CC2=C(OC=3N(C(NC(C32)=O)=O)COCC[Si](C)(C)C)C3=CC(=CC=C3)Cl)C=C1 | C25H26Cl2N2O4Si
